US07384934B2
(R)-10-(4-Methyl-3-phenoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Add aqueous 37% formaldehyde (1.1 eqiv) to a solution of (R)-10-(3-phenoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (520 mg) in dichloroethane (60 mL per 1 mmol non-alkylated starting material). Stir the mixture 2 minutes and add sodium triacetoxyborohydride (1.5 mmol per 1 mmol non-alkylated starting material). Stir the suspension for 30 minutes and quench with a saturated aqueous solution of sodium bicarbonate. Extract the aqueous phase 3 times with dichloromethane and combine the organic phases, dry over magnesium sulfate, filter and concentrate. Purify the residue via chromatography on silica gel (methylene chloride/methanol (90:10) to provide the title compound as a yellow solid (265 mg, 49%): mp 74-88° C.; 1H NMR (CDCl3) δ 2.28 (s, 3H), 2.47 (s, 3H), 2.50-2.39 (m, 1H), 2.66-2.58 (m, 1H), 2.91 (dt, 1H), 3.11 (dd, 1H), 3.26 (dt, 1H), 3.93 (bd, 1H), 4.14-4.03 (m, 3H), 4.91 (bs, 1H), 6.31-6.29 (m, 1H), 6.59 (dt, 1H), 7.00-6.86 (m, 5H), 7.03 (dd, 1H), 7.32-7.27 (m, 2H); MS (APCI) m/z (rel intensity) 419.3 (100).

reactant | formaldehyde | C=O | CH2O
reactant | (R)-10-(3-phenoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 520 mg | O(C1=CC=CC=C1)C[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2 | C23H24N4OS
reactant | dichloroethane | 1 mmol, 60 mL | ClC(C)Cl | C2H4Cl2
reactant | sodium triacetoxyborohydride | 1.5 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | (R)-10-(4-Methyl-3-phenoxymethyl-piperazin-1-yl)-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 265 mg, 49% | CN1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=CC13)C)C=CC=C2)COC2=CC=CC=C2 | C24H26N4OS
